US07973039B2
Step a) Formation of Ethyl 2,2-dimethyl-6-morpholin-4-ylhex-4-ynoate
To a solution of ethyl isobutyrate (530 μl; 4.08 mmol) in THF (5 mL) was added lithium bis(trimethylsilyl)amide (7.30 mL; solution 1.00 M in THF; 7.30 mmol) at −78° C. The mixture was removed from the cooling bath and stirred for 30 min. It was then cannulated over a suspension of 4-(4-chlorobut-2-yn-1-yl)morpholine hydrochloride (prepared as described by Gomez et al., 1997 Tetrahedron, 53(50), 17201-17210; 714 mg; 3.40 mmol) in THF (5 mL) maintained at −78° C. The reaction mixture was left in the cooling bath and allowed to warm up to rt. After 3 h, it was quenched with water and extracted twice with EtOAc. Combined organic phases were washed with brine, dried over magnesium sulfate, filtrated and concentrated. Purification of the crude by flash chromatography on silica (gradient DCM:MeOH 100:0 to 90:10) gave the title compound as a colorless oil (600 mg, 70% yield). 1H NMR (DMSO-d6) δ: 4.11 (qd, J=7.1 Hz, 2H), 4.14 (m, 4H), 3.31 (t, J=2.1Hz, 0.6H), 3.25 (m, 1.4H), 2.52 (m, 4H), 2.43 (t, J=2.3 Hz, 2H), 1.25 (s, 6H), 1.23 (t, J=7.0 Hz, 3H).

reactant | ethyl isobutyrate | 4.08 mmol, 530 μl | C(C(C)C)(=O)OCC | C6H12O2
reactant | lithium bis(trimethylsilyl)amide | 7.30 mmol, 1.00 M, 7.30 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | 4-(4-chlorobut-2-yn-1-yl)morpholine hydrochloride | 3.40 mmol, 714 mg | Cl.ClCC#CCN1CCOCC1
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | Ethyl 2,2-dimethyl-6-morpholin-4-ylhex-4-ynoate | 600 mg, 70% yield | CC(C(=O)OCC)(CC#CCN1CCOCC1)C | C14H23NO3
